US08440836B2
5-[2-(1,3-Difluoro-2-methylpropan-2-yl)oxiran-2-yl]-1,3-thiazole
To 2.00 g (12.7 mmol) of 2-trimethylsilyl-1,3-thiazole dissolved in 20 ml of diethyl ether were added, at −78° C. under an argon atmosphere, 5.1 ml (2.5 M, 12.7 mmol) of n-butyllithium, and the reaction mixture was stirred at −78° C. for 20 min. Then 2.73 g (12.7 mmol) of 1-bromo-4-fluoro-3-(fluoromethyl)-3-methylbutan-2-one were added and the reaction mixture was gradually warmed to room temperature. After addition of saturated aqueous ammonium chloride solution, the phases were separated and the aqueous phase was extracted with diethyl ether. The combined organic phases were dried over sodium sulphate, filtered and concentrated. The crude product was then purified by column chromatography (5:1 cyclohexane/ethyl acetate). This gave 2.39 g (86%) of the desired product.

reactant | 2-trimethylsilyl-1,3-thiazole | 12.7 mmol, 2.00 g | C[Si](C=1SC=CN1)(C)C | C6H11NSSi
reactant | n-butyllithium | 12.7 mmol, 2.5 M, 5.1 ml | C(CCC)[Li]
reactant | 1-bromo-4-fluoro-3-(fluoromethyl)-3-methylbutan-2-one | 12.7 mmol, 2.73 g | BrCC(C(CF)(C)CF)=O | C6H9BrF2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 5-[2-(1,3-Difluoro-2-methylpropan-2-yl)oxiran-2-yl]-1,3-thiazole | FCC(CF)(C)C1(OC1)C1=CN=CS1 | C9H11F2NOS
